US09376422B2
Step 2: Synthesis of methyl 3-amino-5-chloro-2-methoxybenzoate
To a solution of methyl 5-chloro-2-methoxy-3-nitrobenzoate (1.21 g, 4.93 mmol) in methanol (50 ml) at room temperature was added ammonium chloride (2.59 g, 49.2 mmol) followed by deionized water (25 ml). The mixture was heated to 70° C. before the addition of iron (1.65 g, 29.6 mmol). The reaction turned to a dark color over the 2 hours it was stirred at 70° C. This mixture was allowed to cool to room temperature and was filtered through Kieselgel. The filter pad was washed with MeOH (50 ml) and the filtrate concentrated under reduced pressure. The residue was dissolved in deionized water (25 ml) and EtOAc (25 ml). The phases were separated and the aqueous phase was extracted with EtOAc (2×25 ml). The combined organic extracts were washed with brine (25 ml), dried over MgSO4, filtered and concentrated under reduced pressure to give 892 mg (67%) of the title compound as a viscous brown oil. This material was used without further purification. LC-MS 89%, 1.75 min (3 minute LC-MS method), m/z=216.3/218.0, 1H NMR (500 MHz, Chloroform-d) δ ppm 7.16 (1H, d, J=2.52 Hz), 6.87 (1H, d, J=2.52 Hz), 4.03 (2H, br. s.), 3.89-3.94 (3H, m), 3.84 (3H, s).

reactant | methyl 5-chloro-2-methoxy-3-nitrobenzoate | 4.93 mmol, 1.21 g | ClC=1C=C(C(=C(C(=O)OC)C1)OC)[N+](=O)[O-] | C9H8ClNO5
reactant | ammonium chloride | 49.2 mmol, 2.59 g | [Cl-].[NH4+]
reactant | water | 25 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
catalyst | iron | 29.6 mmol, 1.65 g | [Fe] | Fe
product | methyl 3-amino-5-chloro-2-methoxybenzoate | 892 mg, 67% | NC=1C(=C(C(=O)OC)C=C(C1)Cl)OC | C9H10ClNO3
